US04831029
A mixture of 50.76 g (0.3 mole) of 5-amino-3-morpholino-1H-1,2,4-triazole, 85.13 g (0.3 mole) of 1-benzyl-3-carbomethoxy-4-piperidone-hydrochloride and 175 ml of acetic acid is heated to boiling for 6 hours. After cooling 400 ml of concentrated ammonium hydroxide solution are added to the reaction mixture, which is then allowed to stand at room temperature for 16 hours. The precipitated crystals are filtered and washed with 200 ml of water. The product is heated to boiling in 500 ml of methanol for 15 minutes, filtered, washed with 400 ml of methanol, dissolved in hot dimethyl formamide, precipitated by adding acetonitrile, filtered and washed with acetonitrile. Thus 78.81 g of 7-benzyl-2-morpholino-6,7,8,9-tetrahydro-pyrido[4,3-d]-1,2,4-triazolo[1,5-a]pyrimidine-5(10H)-one are obtained, yield 72%, m.p.: 291°-293° C. The crystals precipitated from the methanol solution are filtered, washed with methanol, dissolved in 60 ml of hot dimethyl formamide, precipitated by adding 60 ml of acetonitrile, filtered and washed with acetonitrile. Thus 6.63 g of 7-benzyl-2-morpholino-6,7,8,9-tetrahydro-pyrido[4,3-d]-1,2,4-triazolo[1,5-a]pyrimidine-6(10H)-one are obtained, yield 6%, m.p.: 252°-254° C.

reactant | 5-amino-3-morpholino-1H-1,2,4-triazole | 0.3 mole, 50.76 g | NC1=NC(=NN1)N1CCOCC1 | C6H11N5O
reactant | 1-benzyl-3-carbomethoxy-4-piperidone-hydrochloride | 0.3 mole, 85.13 g | Cl.C(C1=CC=CC=C1)N1CC(C(CC1)=O)C(=O)OC
reactant | ammonium hydroxide | 400 ml | [OH-].[NH4+]
solvent | acetic acid | 175 ml | C(C)(=O)O | C2H4O2
product | 7-benzyl-2-morpholino-6,7,8,9-tetrahydro-pyrido[4,3-d]-1,2,4-triazolo[1,5-a]pyrimidine-5(10H)-one | 78.81 g, yield 72% | C(C1=CC=CC=C1)N1CC2=C(N=C3N(C2)NC(=N3)N3CCOCC3)C(C1)=O | C19H22N6O2
